US07132436B2
2,3,4-Trichloro-N-{4-[2-chloro-4-(4-chlorophenoxy)phenyl]-1,3-thiazol-2-yl)benzenesulfonamide
The title compound was prepared from 4-[2-chloro-4-(4-chlorophenoxy)phenyl]-1,3-thiazol-2-amine (91 mg) and 2,3,4-trichlorobenzenesulfonyl chloride (76 mg) as described in the synthetic METHOD B to give a white solid (49.2 mg) with purity >90%: MS (pos) m/z 579.1, 581.1, 583.1; MS (neg) m/z 577.5, 579.5, 581.5.

reactant | 4-[2-chloro-4-(4-chlorophenoxy)phenyl]-1,3-thiazol-2-amine | 91 mg | ClC1=C(C=CC(=C1)OC1=CC=C(C=C1)Cl)C=1N=C(SC1)N | C15H10Cl2N2OS
reactant | 2,3,4-trichlorobenzenesulfonyl chloride | 76 mg | ClC1=C(C=CC(=C1Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | 2,3,4-Trichloro-N-{4-[2-chloro-4-(4-chlorophenoxy)phenyl]-1,3-thiazol-2-yl)benzenesulfonamide | ClC1=C(C=CC(=C1Cl)Cl)S(=O)(=O)NC=1SC=C(N1)C1=C(C=C(C=C1)OC1=CC=C(C=C1)Cl)Cl | C21H11Cl5N2O3S2
